US06034127
a) N-tert-butoxycarbonylisonipecotic acid
Di-tert-butyl dicarbonate (6.55 g, 30 mmol) was added to the mixture of isonipecotic acid (3.90 g, 30 mmol) and NaHCO3 (5.05 g, 60 mmol) in 1:1 1,4-dioxane/water (100 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was evaporated in vacuo, acidified to pH 6 using 10% citric acid and extracted with ethyl acetate (3×100 mL). The organic phase was washed with brine (2×50 mL) and dried over Na2SO4. The solvent was evaporated to give the title compound as a white solid (6.25 g, 91%). 1H-NMR (300 MHz, CDCl3) δ 1.43 (s, 9H), 1.63 (m, 2H), 1.88 (dd, 2H, J=1.5, 6.6 Hz), 2.45 (m, 1H), 2.83 (t, 2H, J=11.4 Hz), and 4.00 (d, 2H, J=6.7 Hz).

reactant | Di-tert-butyl dicarbonate | 30 mmol, 6.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | isonipecotic acid | 30 mmol, 3.90 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | NaHCO3 | 60 mmol, 5.05 g | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane water | 100 mL | O1CCOCC1.O
product | N-tert-butoxycarbonylisonipecotic acid | 6.25 g, 91% | C(C)(C)(C)OC(=O)N1CCC(C(=O)O)CC1 | C11H19NO4
